US09421205B2
(e) tert-Butyl 4-(4-((4-(3-carbamoylphenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I146)
A suspension of tert-butyl 4-(4-((4-((3-carbamoylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I145) (105 mg, 0.18 mmol) and Pd/C (75 mg) was stirred in DMF (5 mL) and triethylamine (0.15 mL) at 30° C. under hydrogen for 18 hours. After filtration the volatiles were evaporated under reduced pressure and the residue chromatographed (Biotage Isolera: 4 g silica cartridge, 0-2% methanol/ethyl acetate) to give the title compound (I146) (66.6 mg, 63% yield) as a white solid; 1H NMR (400 MHz, d6-DMSO) δ 10.20 (s, 1H), 8.67 (s, 1H), 7.93 (s, 1H), 7.79 (s, 1H), 7.74-7.50 (m, 8H), 7.40-7.35 (m, 2H), 7.33 (s, 1H), 7.24 (d, J=8.6 Hz, 2H), 3.43 (s, 2H), 3.17-3.04 (m, 4H), 2.36-2.23 (m, 4H), 1.38 (s, 9H). LCMS Method C: rt 5.05 min; m/z 585.2 [M+H]+; m/z 583.2 [M−H]−.

reactant | tert-butyl 4-(4-((4-((3-carbamoylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 0.18 mmol, 105 mg | C(N)(=O)C=1C=C(C=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C30H31F3N6O3
reactant | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(3-carbamoylphenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 63% yield | C(N)(=O)C=1C=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(CN3CCN(CC3)C(=O)OC(C)(C)C)C=C2)C=CC1 | C30H35F3N6O3
